US05569768
2-(3,4-Diaminophenyl)benzonitrile (4.78 mmoles, 1.0 g) was reacted as described in Example 31 with (dichloromethylene) diethylammonium chloride (1.435 mmoles, 2.73 g prepared following the procedure described in Angew. Chem. Int. Ed. 12: 806 (1973)) to yield 0.91 g of 5-(2-cyanophenyl)-2-diethylamino-1H-benzimidazole.

reactant | 2-(3,4-Diaminophenyl)benzonitrile | 4.78 mmoles, 1.0 g | NC=1C=C(C=CC1N)C1=C(C#N)C=CC=C1 | C13H11N3
reactant | (dichloromethylene) diethylammonium chloride | [Cl-].ClC(Cl)=[N+](CC)CC
product | 5-(2-cyanophenyl)-2-diethylamino-1H-benzimidazole | 0.91 g | C(#N)C1=C(C=CC=C1)C1=CC2=C(NC(=N2)N(CC)CC)C=C1 | C18H18N4
